US06951945B2
A solution of 3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionic acid (prepared as in Example 38 Å, 100 mg, 0.35 mmol) in methylene chloride (5 mL) and one drop of N,N-dimethylformamide was cooled to 0° C. and then treated with a 2.0M solution of oxalyl chloride in methylene chloride (0.20 mL, 0.39 mmol). Gas evolution began immediately. The reaction mixture was stirred for 30 min at 0° C. After this time, the reaction mixture was treated with a solution of N,N-diisopropylethylamine (0.15 mL, 0.84 mmol) and 2-aminopyrazine (69 mg, 0.73 mmol) in tetrahydrofuran (4 mL) in one portion. The resulting reaction mixture was stirred for 16 h at 25° C. The reaction mixture was then diluted with water (10 mL) and extracted with methylene chloride (3×15 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 90/10 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3,4-dichloro-phenyl)-N-pyrazin-2-yl-propionamide (38 mg, 30%) as a yellow solid: mp 46.5-51.3° C.; EI-HRMS m/e calcd for C18H19Cl2N3O (M+) 363.0905, found 363.0907.

reactant | 3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionic acid | 0.35 mmol, 100 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H16Cl2O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-diisopropylethylamine | 0.84 mmol, 0.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-aminopyrazine | 0.73 mmol, 69 mg | NC1=NC=CN=C1 | C4H5N3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | methylene chloride | 0.39 mmol, 0.20 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(3,4-dichloro-phenyl)-N-pyrazin-2-yl-propionamide | 38 mg, 30% | C1(CCCC1)CC(C(=O)NC1=NC=CN=C1)C1=CC(=C(C=C1)Cl)Cl | C18H19Cl2N3O
